US08197903B2
As shown in the Reaction Scheme 8, a mixture of 3-chloropropyldimethylvinylsilane (1.0 g, 6.15 mmol) and sodium acetate (1.01 g, 12.3 mmol) was dissolved in 17 mL of N,N′-dimethylformamide (DMF), and the resulting solution was heated at 120° C. for 12 hours. After the reaction, the organic layer was extracted with distilled water and ether. After evaporating the solvent, the resulting residue was purified by column chromatography (n-Hex:EA=10:1, Rf=0.36) to give 859 mg (75% yield) of pure 3-acetoxypropyldimethylvinylsilane.

reactant | 3-chloropropyldimethylvinylsilane | 6.15 mmol, 1.0 g | ClCCC[SiH2]C=C(C)C | C7H15ClSi
reactant | sodium acetate | 12.3 mmol, 1.01 g | C(C)(=O)[O-].[Na+]
solvent | N,N′-dimethylformamide | 17 mL | CN(C)C=O | C3H7NO
product | 3-acetoxypropyldimethylvinylsilane | 859 mg, 75% yield | C(C)(=O)OCCC[SiH2]C=C(C)C | C9H18O2Si
